US04863948
(B) 2-(2H-Phthalazin-1-on-2-yl)-N-methylethylamine hydrochloride
A solution of 2-(2H-phthalazin-1-on-2-yl)-N-methyl-N-benzylethylamine (41.5 g) in ethanol (1000 ml) and concentrated hydrochloric acid (50 ml) containing 5% palladium on charcoal (4.1 g) was stirred under a hydrogen atmosphere (50 p.s.i.) at room temperature for 18 hours. The reaction mixture was filtered and evaporated to afford a solid which was recrystallised from isopropanol to afford the title compound, yield 22.5 g, m.p. 200°-201°.

reactant | 2-(2H-phthalazin-1-on-2-yl)-N-methyl-N-benzylethylamine | 41.5 g | C1(N(N=CC2=CC=CC=C12)C(CNC)CC1=CC=CC=C1)=O | C18H19N3O
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | ethanol | 1000 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 4.1 g | [Pd] | Pd
product | 2-(2H-Phthalazin-1-on-2-yl)-N-methylethylamine hydrochloride | Cl.C1(N(N=CC2=CC=CC=C12)CCNC)=O | InChI=1S/C11H13N3O.ClH/c1-12-6-7-14-11(15)10-5-3-2-4-9(10)8-13-14;/h2-5,8,12H,6-7H2,1H3;1H
